US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(3-hydroxypropylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate (7)
To a solution of 50 mg (0.13 mmol) of N-methylmitomycin A in 10 ml of anhydrous methanol, a solution of 82 mg (1 mmol) sodium acetate in 2.5 ml of methanol and a solution of 130 mg (1 mmol) of 3-hydroxypropylamine hydrochloride in 2.5 ml of methanol were added alternatively with vigorous stirring, over a period of 10 minutes. The progress of the stirred reaction was checked frequently by TLC and appeared to be complete in 24 hours. The solvent was evaporated under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated. Recrystallization from a mixture of methylene chloride and hexane gave 31 mg. (61% yield) of the desired product as purple-colored crystals having a melting point of 139°-140° (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.13 mmol, 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | sodium acetate | 1 mmol, 82 mg | C(C)(=O)[O-].[Na+]
reactant | 3-hydroxypropylamine hydrochloride | 1 mmol, 130 mg | Cl.OCCCN
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
solvent | methanol | 2.5 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-(3-hydroxypropylamino)-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 61% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCCCO)C)=O)CC1C2N1C)OC | InChI=1S/C18H25N3O5.CH3NO2/c1-9-13(19-5-4-6-22)16(25)12-10(8-23)18(26-3)17-11(20(17)2)7-21(18)14(12)15(9)24;2-1(3)4/h10-11,17,19,22-23H,4-8H2,1-3H3;2H2,(H,3,4)
